US03965200
5 parts of toluene-2,4-disulfonic acid was adsorbed to 6 parts of diatomaceous earth the same as in Example 1 to prepare solid catalyst. The solid catalyst was added to 300 parts of nitrobenzene and heated at a temperature not exceeding 120°C under reduced pressure to remove water as an azeotropic mixture with nitrobenzene. Thus 100 parts of nitrobenzene was distilled off with water. Thereafter, 15 parts of biphenyl was added to the dried mixture and one part of fuming nitric acid was added dropwise with stirring to the mixture cooled to 3° to 5°C in 30 minutes. The nitration reaction and post-treatment were conducted in the same manner as in Example 1, whereby mononitrobiphenyl was obtained with p/o ratio of 1.3. Yield was 87%.

reactant | toluene-2,4-disulfonic acid | C=1(C(=CC(=CC1)S(=O)(=O)O)S(=O)(=O)O)C | C7H8O6S2
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
product | mononitrobiphenyl | Yield was 87% | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=CC=C1 | C12H9NO2
